US07612114B2
6-(2-Isopropylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol (1.4 g) and acetone (1.5 ml) according to an analogous synthetic method to Example 38, the title compound (1.2 g) was obtained.

reactant | 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 1.4 g | NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O | C17H19NO2
reactant | acetone | 1.5 ml | CC(=O)C | C3H6O
product | 6-(2-Isopropylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 1.2 g | C(C)(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O | C20H25NO2
